US04103011
A suspension of ethyl 5,8-dihydro-2-(4-acetyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (20 g) in a mixture of 4% hydrochloric acid (60 ml) and ethanol (20 ml) was refluxed at 120° C. for 1.5 hours. After cooling, the precipitate was collected, washed with water and then with hot water, and dissolved in a 10% sodium hydroxide solution. The insoluble material was filtered off and the filtrate was acidified with diluted hydrochloric acid. The resulting precipitate was collected and recrystallized from dimethyl sulfoxide to give 5,8-dihydro-2-(4-acetyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (10 g). m.p. 298°-300° C.

reactant | ethyl 5,8-dihydro-2-(4-acetyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 20 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)OCC | C16H19N5O4
solvent | hydrochloric acid | 60 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5,8-dihydro-2-(4-acetyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 10 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)O | C14H15N5O4
